*
.subckt 2N7002  1 2 3
*               1=drain  2=gate  3=source

Cgs     6 3     12.3e-12
Cgd1    6 4     27.4e-12
Cgd2    1 4     6e-12
M1      5 6 3 3 MOST1 W=0.1 L=0.3e-6
M2      4 6 5 3 MOST2 W=0.1 L=0.3e-6
D1      3 1     Dbody
Rd      5 1     Rtemp 2.3
Rg      2 6     15

.model MOST1 NMOS (level = 3
+   Cgbo  = 0
+   Cgdo  = 0
+   Cgso  = 0
+   delta = 0.1
+   eta   = 3e-6
+   Is    = 0
+   kappa = 10e-2
+   Kp    = 3.09e-7
+   Ld    = 0
+   Nfs   = 4.9e12
+   Rd    = 0
+   Rs    = 0
+   Tpg   = 1
+   Uo    = 650
+   Vmax  = 0
+   Vto   = 2.014
+   Wd    = 0
+   Xj    = 0.5e-6
+ )

.model MOST2 NMOS (level = 3
+   Cgbo  = 0
+   Cgdo  = 0
+   Cgso  = 0
+   delta = 0.1
+   eta   = 3e-6
+   Is    = 0
+   kappa = 10e-2
+   Kp    = 0.315e-5
+   Ld    = 0
+   Nfs   = 0
+   Rd    = 1000
+   Rs    = 1000
+   Tpg   = 1
+   Uo    = 650
+   Vmax  = 0
+   Vto   = -5.69
+   Wd    = 0
+   Xj    = 0.5e-6
+ )

.model Dbody D (
+   Bv  = 60
+   Cjo = 0
+   Ibv = 10e-6
+   Ikf = 1e3
+   Is  = 1e-14
+   M   = 0.5
+   N   = 0.88
+   Rs  = 0.7
+   Tt  = 50e-9
+   Vj  = 0.4
+ )

.model Rtemp R (
+   TC1 = 5.61e-3
+   TC2 = 2.23e-5
+ )

.ends
