*
.subckt BSS84   1 2 3
*               1=drain  2=gate  3=source

Cgs     2 3     20.6E-12
Cgd1    2 4     56.1E-12
Cgd2    1 4     3.5E-12
M1      1 2 3 3 most1 W=12m L=2u
M2      4 2 1 3 most2 W=12m L=2u
D1      1 3     Dbody

.model most1 PMOS (level = 3
+   Kp  = 10.07u
+   Rd  = 3.952
+   Rs  = 20m
+   Vto = -1.7
+ )

.model most2 PMOS (level = 1
+   Kp  = 10.07u
+   Rs  = 20m
+   Vto = 3.25
+ )

.model Dbody D (
+   Bv  = 50
+   Cjo = 45.35p
+   Ibv = 10u
+   Is  = 442f
+   M   = 325.5m
+   N   = 1.051
+   Rs  = 1.243
+   Tt  = 105n
+   Vj  = 462.4m
+ )

.ends
